US08486967B2
a) 1-(3,5-Dichloro-benzyl)-1H-[1,2,4]triazol-3-ylamine
3-Amino-1,2,4-triazole (420 mg, 5.0 mmol) was dissolved in DMF (3 mL) under argon atmosphere, sodium hydride (55%, 218 mg, 5.0 mmol) was added at room temperature in small portions and stirred at room temperature for 1 hour. The reaction mixture was cooled to 0° C., 3,5-dichlorobenzyl chloride (977 mg, 5.0 mmol) was added and the reaction mixture was stirred at room temperature for 3 hours. The reaction mixture was poured onto water and the aqueous phase extracted with ethyl acetate. The combined organic phases were dried over Na2SO4, filtered, the solvents were evaporated and the residue purified by silica gel chromatography using dichloromethane/methanol as eluent. The title compound was obtained as a white solid (357 mg, 29%).

reactant | 3-Amino-1,2,4-triazole | 5.0 mmol, 420 mg | NC1=NNC=N1 | C2H4N4
reactant | sodium hydride | 5.0 mmol, 218 mg | [H-].[Na+]
reactant | 3,5-dichlorobenzyl chloride | 5.0 mmol, 977 mg | ClC=1C=C(CCl)C=C(C1)Cl | C7H5Cl3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(3,5-Dichloro-benzyl)-1H-[1,2,4]triazol-3-ylamine | ClC=1C=C(CN2N=C(N=C2)N)C=C(C1)Cl | C9H8Cl2N4
